US05958375
d. 3-Amino-5-(1,3-dihydroxyprop-2-ylaminocarbonyl)phenylaminocarbonyl-[3'-amino-5'-(1,3-dihydroxyprop-2-ylaminocarbonyl)benzene]dihydrochloride
3-Nitro-5-(1,3-dihydroxyprop-2-ylaminocarbonyl)phenylaminocarbonyl-[3'-nitro-5'-(1,3-dihydroxyprop-2-ylaminocarbonyl)benzene] (1.03 g, 1.98 mmol) was hydrogenated in a solution containing methanol (40 ml), concentrated HCl (2 ml), water (2 ml) and a Pd/C catalyst (10%, 0.2 g) at 60 psi. The catalyst was filtered off and the solvent was evaporated. Water (150 ml) was then added and the solution was lyophilized. Yield: 0.98 g (93%).

reactant | 3-Nitro-5-(1,3-dihydroxyprop-2-ylaminocarbonyl)phenylaminocarbonyl-[3'-nitro-5'-(1,3-dihydroxyprop-2-ylaminocarbonyl)benzene] | 1.98 mmol, 1.03 g | [N+](=O)([O-])C=1C=C(C=C(C1)C(=O)NC(CO)CO)NC(=O)C1=CC(=CC(=C1)C(=O)NC(CO)CO)[N+](=O)[O-] | C21H23N5O11
reactant | methanol | 40 ml | CO | CH4O
reactant | HCl | 2 ml | Cl | ClH
catalyst | Pd/C | 0.2 g | [Pd] | Pd
solvent | water | 2 ml | O | H2O
product | 3-Amino-5-(1,3-dihydroxyprop-2-ylaminocarbonyl)phenylaminocarbonyl-[3'-amino-5'-(1,3-dihydroxyprop-2-ylaminocarbonyl)benzene]dihydrochloride | Cl.Cl.NC=1C=C(C=C(C1)C(=O)NC(CO)CO)NC(=O)C1=CC(=CC(=C1)C(=O)NC(CO)CO)N | InChI=1S/C21H27N5O7.2ClH/c22-14-2-11(1-12(3-14)20(32)25-17(7-27)8-28)19(31)24-16-5-13(4-15(23)6-16)21(33)26-18(9-29)10-30;;/h1-6,17-18,27-30H,7-10,22-23H2,(H,24,31)(H,25,32)(H,26,33);2*1H
